US06787543B2
A solution of dimethyl sulfoxide (0.219 ml) in dichloromethane (1.1 ml) was added dropwise to a solution of oxalyl chloride (0.133 ml) in dichloromethane (2.7 ml) under cooling below −60° C. with dry ice-acetone. After 5 minutes, the mixture was allowed to −10° C., and a solution of (2S)-1-benzyl-2-(hydroxymethyl)piperidine (156.5 mg) in dichloromethane (1.6 ml) was added to the mixture. The whole mixture was then cooled below −60° C. and was stirred for 20 minutes at the same temperature. After addition of triethylamine (0.64 ml) followed by stirring at room temperature, the reaction mixture was poured into water and extracted with 1,2-dichloroethane. The extract was dried over magnesium sulfate and evaporated under reduced pressure to give a syrup. Benzylamine (0.33 ml) was added to the solution of the syrup obtained above procedure in 1,2-dichloroethane (2.5 ml) with ice-cooling. After the whole was stirred for 30 minutes at the same temperature, sodium triacetoxyborohydride (0.323 g) was added to this mixture. The reaction mixture was allowed to room temperature and was stirred for 3 hours. The mixture was poured into aqueous saturated sodium hydrogen carbonate solution and extracted with dichloromethane. The extract was dried over magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel chromatography using a mixture of dichloromethane and methanol (20:1) as an eluent to give N-benzyl-[(2S)-1-benzylpiperidin-2-ylmethyl]amine (168.5 mg).

reactant | oxalyl chloride | 0.133 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | (2S)-1-benzyl-2-(hydroxymethyl)piperidine | 156.5 mg | C(C1=CC=CC=C1)N1[C@@H](CCCC1)CO | C13H19NO
reactant | Benzylamine | 0.33 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 0.323 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1.1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.6 ml | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | 2.5 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
solvent | triethylamine | 0.64 ml | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 0.219 ml | CS(=O)C | C2H6OS
product | N-benzyl-[(2S)-1-benzylpiperidin-2-ylmethyl]amine | 168.5 mg | C(C1=CC=CC=C1)NC[C@H]1N(CCCC1)CC1=CC=CC=C1 | C20H26N2
